US07846944B2
Step 2A: Synthesis of tert-Butyl 3-bromo-4-chlorophenylcarbamate
Boc2O (852 mg, 3.90 mmol) and 3-bromo-4-chlorobenzenamine (733 mg, 3.55 mmol) in THF (10 mL) were cooled in an ice bath and treated with NaH (102 mg, 4.26 mmol). It was stirred at 0° C. for 30 min then at RT for 2 h. The flask was fitted with a condenser and heated to 75° C. for 16 h. The solution was then cooled to RT, treated with brine (50 mL) and extracted with EtOAc (2×25 mL), dried over MgSO4, filtered and concentrated. The crude residue was then purified on the ISCO 40 g column (0-25% EtOAc in hexanes) affording the title compound (813 mg) as a colorless crystalline solid. MS (ESI, pos.ion) m/z: 249.9/252.0 (M-t-Bu+1).

reactant | Boc2O | 3.90 mmol, 852 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3-bromo-4-chlorobenzenamine | 3.55 mmol, 733 mg | BrC=1C=C(C=CC1Cl)N | C6H5BrClN
reactant | NaH | 4.26 mmol, 102 mg | [H-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | brine | 50 mL | [Cl-].[Na+].O
product | tert-Butyl 3-bromo-4-chlorophenylcarbamate | 813 mg | BrC=1C=C(C=CC1Cl)NC(OC(C)(C)C)=O | C11H13BrClNO2
